US07115645B2
b) 5-Methoxy-2-nitrophenyl-m-tolylamine
39 g of 5-chloro-2-nitrophenyl-m-tolylamine was added to a solution of 9 g of sodium in 670 ml of methanol, and it was refluxed for 72 hours. Then, it is cooled to 0° C., and the crystalline product is suctioned off.

reactant | 5-chloro-2-nitrophenyl-m-tolylamine | 39 g | ClC=1C=CC(=C(C1)NC=1C=C(C=CC1)C)[N+](=O)[O-] | C13H11ClN2O2
reactant | sodium | 9 g | [Na] | Na
reactant | methanol | 670 ml | CO | CH4O
product | 5-Methoxy-2-nitrophenyl-m-tolylamine | COC=1C=CC(=C(C1)NC=1C=C(C=CC1)C)[N+](=O)[O-] | C14H14N2O3
